US06653471B2
A mixture of 5.0 g (15.5 mmol) of 6-methoxy-3-nitro-2-(toluene-4-sulfonyl methyl)-pyridine and 1.8 mL (16 mmol) of ethyl bromoacetate is dissolved in 20 mL of DMF. To this solution is added 4.4 g (32 mmol) of K2CO3 and the reaction mixture is heated to 50° C. for 18 hours. The reaction mixture is cooled to room temperature and diluted with 300 mL of water. The mixture is extracted with ethyl acetate. The ethyl acetate extracts are dried (Na2SO4) and evaporated to yield 7.2 grams of 6-methoxy-3-nitro-pyridin-2-yl]-[toluene-4-sulfonyl]-acetic acid ethyl ester. 1H NMR (CDCl3) δ8.30 (d, 1H), 7.60 (d, 2H), 7.30 (d, 2H), 6.80 (d, 1H), 6.30 (m, 1H), 4.0 (q, 2H), 3.80 (s, 3H), 3.60 (m, 1H), 3.10 (m, 1H), 2.40 (s, 3H), 1.10 (t, 3H). Mass spectrum: m/e=409.0 (p+1). TLC (7/3: hexanes/ethyl acetate) Rf=0.5.

reactant | 6-methoxy-3-nitro-2-(toluene-4-sulfonyl methyl)-pyridine | 15.5 mmol, 5.0 g | COC1=CC=C(C(=N1)CS(=O)(=O)C1=CC=C(C=C1)C)[N+](=O)[O-] | C14H14N2O5S
reactant | ethyl bromoacetate | 16 mmol, 1.8 mL | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 32 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | [toluene-4-sulfonyl]-acetic acid ethyl ester | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)C)=O | C11H14O4S
